US05276041
15.5 g (77.6 mmol) of N-Boc-4-piperidone was refluxed for one hour in methanol in the presence of 7.0 g (100.8 mmol) of hydroxylamine hydrochloride and 14.1 ml (100.8 mmol) of triethylamine. Then, methanol was distilled off, and the residue was thoroughly washed with water in chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give 10.6 g of N-Boc-4-hydroxyiminopiperidine as white powder.

reactant | N-Boc-4-piperidone | 77.6 mmol, 15.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | hydroxylamine hydrochloride | 100.8 mmol, 7.0 g | Cl.NO
reactant | triethylamine | 100.8 mmol, 14.1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | N-Boc-4-hydroxyiminopiperidine | 10.6 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=NO | C10H18N2O3
